US04788207
To a stirred mixture of 14.9 grams (0.102 mole) of 4-chlorobenzamide in 800 ml of toluene was added 20.6 grams (0.051 mole) of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's Reagent). This mixture was stirred and heated at reflux for two hours. The reaction mixture was allowed to cool slowly to room temperature. Approximately 600 ml of toluene was evaporated from the mixture under reduced pressure, leaving a residual liquid. This liquid was purified by column chromatography on silica gel, eluting with methylene chloride:ethyl acetate (60:40), to yield 5.6 grams of 4-chlorophenylthiocarboxamide as a solid.

reactant | 4-chlorobenzamide | 0.102 mole, 14.9 grams | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.051 mole, 20.6 grams | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chlorophenylthiocarboxamide | 5.6 grams | ClC1=CC=C(C=C1)C(=S)N | C7H6ClNS
